US06087380
1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-n-hexyloxycarbonylethyl)-amide-hydrochloride
0.60 g (1.1 mMol) of 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride were added to about 30 ml of n-hexanol saturated with hydrogen chloride and the mixture was stirred for 19 hours at room temperature. Then the hexanol was distilled off in vacuo, the residue was mixed with about 5 ml of 1N ammonia solution with stirring and evaporated down once more. The crude product thus obtained was purified by column chromatography (silica gel, dichloromethane/methanol=5:1). Yield: 53 % of theory, C31H37N7O3 (555.7) Rf value: 0.36 (silica gel; dichloromethane/methanol =5:1) EKA mass spectrum: (M+H)+ =556

reactant | 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | 1.1 mMol, 0.60 g | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC
reactant | hydrogen chloride | Cl | ClH
solvent | n-hexanol | about 30 ml | C(CCCCC)O | C6H14O
product | 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-n-hexyloxycarbonylethyl)-amide-hydrochloride | Yield: 53 % | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCCCCCC | InChI=1S/C31H37N7O3.ClH/c1-3-4-5-8-19-41-29(39)16-18-38(27-9-6-7-17-34-27)31(40)23-12-15-26-25(20-23)36-28(37(26)2)21-35-24-13-10-22(11-14-24)30(32)33;/h6-7,9-15,17,20,35H,3-5,8,16,18-19,21H2,1-2H3,(H3,32,33);1H
